US06140330
To a solution of 2-[2-methoxy-4-(3-t-butoxycarbonylpropioloyl)phenoxymethylcarbonylamino]benzothiazole (0.5 g) in methylene chloride (30 ml) is added trifluoroacetic acid (10 ml), and the mixture is stirred at room temperature for 4 hours. The mixture is concentrated, and to the residue is added methylene chloride. The mixture is stirred, and the precipitated crystals are collected by filtration, and recrystallized from dichloromethane-trifluoroacetic acid to give 2-[2-methoxy-4-(3-carboxypropioloyl)phenoxymethylcarbonylamino]-benzothiazole (0.26 g) as brown powder.

reactant | 2-[2-methoxy-4-(3-t-butoxycarbonylpropioloyl)phenoxymethylcarbonylamino]benzothiazole | 0.5 g | COC1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C#CC(=O)OC(C)(C)C)=O | C24H22N2O6S
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-methoxy-4-(3-carboxypropioloyl)phenoxymethylcarbonylamino]-benzothiazole | 0.26 g | COC1=C(OCC(=O)NC=2SC3=C(N2)C=CC=C3)C=CC(=C1)C(C#CC(=O)O)=O | C20H14N2O6S
